US07855166B2
2-Iodo-6-propoxybenzenesulfonamide (Example 2.095a)
5.00 g (16.72 mmol) of 2-hydroxy-6-iodobenzenesulfonamide are introduced in 50 ml of dimethylformamide and this initial charge is admixed with 2.54 g (18.39 mmol) of potassium carbonate. This mixture is stirred at room temperature for 1 h. Thereafter 3.13 g (18.39 mmol) of propyl iodide are added dropwise and the reaction mixture is stirred at room temperature for 3 h. It is then poured into water, and the product precipitates out. The solid is washed with water and dried. This gives 4.00 g (70% of theory) of 2-iodo-6-propoxybenzenesulfonamide.

reactant | 2-hydroxy-6-iodobenzenesulfonamide | 16.72 mmol, 5.00 g | OC1=C(C(=CC=C1)I)S(=O)(=O)N | C6H6INO3S
reactant | potassium carbonate | 18.39 mmol, 2.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl iodide | 18.39 mmol, 3.13 g | C(CC)I | C3H7I
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Iodo-6-propoxybenzenesulfonamide | IC1=C(C(=CC=C1)OCCC)S(=O)(=O)N | C9H12INO3S
